US06127365
3-Bromo-4-trifluoromethoxy-aniline
4-Trifluoromethoxynitrobenzene (4.1 g) was suspended in water (16 ml) and concentrated sulfuric acid (16 ml) and warmed to 80° C. with stirring. Potassium bromate (3.7 g) was added portionwise over 3 hours. The resulting mixture was heated at 80° C. for a further 2 hours, cooled to room temperature and poured onto ice (100 g). The mixture was extracted with ethyl acetate, dried (MgSO4), filtered, and the solvent removed in vacuo. The recovered solid (1.0 g) was taken up in acetic acid (2.5 ml) and water (10 ml) and iron powder (2.0 g) added. The resulting mixture was warmed to reflux for 2 hours, cooled to room temperature and filtered through Celite™. The filtrate was extracted with ethyl acetate, the organic layers separated, dried (MgSO4), filtered and the solvent removed in vacuo. Chromatography on silica gel (ethyl acetate:hexane 1:3) afforded the title compound as a yellow oil. 1H NMR (CDCl3) δ6.57 (1H, dd), 6.9 (1H, d), 7.06 (1H, dd).

reactant | 4-Trifluoromethoxynitrobenzene | 4.1 g | FC(OC1=CC=C(C=C1)[N+](=O)[O-])(F)F | C7H4F3NO3
reactant | sulfuric acid | 16 ml | S(O)(O)(=O)=O | H2O4S
reactant | Potassium bromate | 3.7 g | Br(=O)(=O)[O-].[K+]
solvent | water | 16 ml | O | H2O
product | 3-Bromo-4-trifluoromethoxy-aniline | BrC=1C=C(N)C=CC1OC(F)(F)F | C7H5BrF3NO
